US07514583B2
1,4-Bis(3,4-dimethoxybenzyl)piperazine
3,4-dimethoxybenzyl chloride (10 g, 53.6 mmol) was combined with piperazine (2.3 g, 26.8 mmol) in anhydrous DMF (30 ml) and heated with stirring under nitrogen for 8 hours at 95-100° C. The cooled reaction mixture was diluted with water (100 ml) and acidified to pH 1 with concentrated hydrochloric acid. The white precipitate was collected by filtration and washed with water (50 ml). The solid was resuspended in water (50 ml) and the pH adjusted to >9 by the dropwise addition of sodium hydroxide solution (50% NaOH in water). The resultant white solid was collected by filtration and dried under vacuum at 50° C., yield 10 g.

reactant | 3,4-dimethoxybenzyl chloride | 53.6 mmol, 10 g | COC=1C=C(CCl)C=CC1OC | C9H11ClO2
reactant | piperazine | 26.8 mmol, 2.3 g | N1CCNCC1 | C4H10N2
reactant | hydrochloric acid | Cl | ClH
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 100 ml | O | H2O
product | 1,4-Bis(3,4-dimethoxybenzyl)piperazine | COC=1C=C(CN2CCN(CC2)CC2=CC(=C(C=C2)OC)OC)C=CC1OC | C22H30N2O4
